US07977344B2
2-[(3-Methylbutyl)oxy]-8-(methoxy)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
To a solution of 2-[(3-methylbutyl)oxy]-8-methoxy-9H-purin-6-amine trifluoroacetic acid salt (143 mg) in dry DMF (2.42 mL) was added potassium carbonate (217 mg) and the mixture was stirred at 60° C. for 90 mins. The reaction was cooled and 4-(bromomethyl)tetrahydro-2H-pyran (77 mg) was added. The reaction was stirred at 50° C. overnight and was cooled to room temperature. The mixture was taken up in EtOAc (30 mL) and extracted with water (2×15 mL). The organics were separated, dried over MgSO4 and concentrated in vacuo to give a viscous yellow oil. The crude material was purified by C18 reverse phase chromatography (ISCO) using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (20-60%) to afford the title compound as a clear viscous oil (52 mg).

reactant | 2-[(3-methylbutyl)oxy]-8-methoxy-9H-purin-6-amine trifluoroacetic acid salt | 143 mg | FC(C(=O)O)(F)F.CC(CCOC1=NC(=C2N=C(NC2=N1)OC)N)C
reactant | potassium carbonate | 217 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | 77 mg | BrCC1CCOCC1 | C6H11BrO
solvent | DMF | 2.42 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-[(3-Methylbutyl)oxy]-8-(methoxy)-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | 52 mg | CC(CCOC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N)C | C17H27N5O3
